US06503903B1
a) tert-Butyl 4-fluoro-3-(benzylaminomethyl)benzoate
According to the procedure of Preparation 4(b), except using tert-butyl 4-fluoro-3-methylbenzoate (6.25 g, 29.7 mmole), N-bromosuccinimide (5.75 g, 32.3 mmole), benzoyl peroxide (375 mg, 1.6 mmole), CCl4 (50 mL), and benzylamine (17 mL, 156 mmole), the title compound (5.70 g, 60%) was prepared as a yellow oil following flash chromatography on silica gel (20% EtOAc/hexanes): MS (ES) m/e 316.1 (M+H)+.

reactant | tert-butyl 4-fluoro-3-methylbenzoate | 29.7 mmole, 6.25 g | FC1=C(C=C(C(=O)OC(C)(C)C)C=C1)C | C12H15FO2
reactant | N-bromosuccinimide | 32.3 mmole, 5.75 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzylamine | 156 mmole, 17 mL | C(C1=CC=CC=C1)N | C7H9N
catalyst | benzoyl peroxide | 1.6 mmole, 375 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | tert-Butyl 4-fluoro-3-(benzylaminomethyl)benzoate | 5.70 g, 60% | FC1=C(C=C(C(=O)OC(C)(C)C)C=C1)CNCC1=CC=CC=C1 | C19H22FNO2
